US07858800B2
1) Production of 1-azido-2-chlorobenzene
2-Chlorophenylhydrazine hydrochloride (1.0 g) suspended in 6.0 ml of diethyl ether was dropped into 5 ml of concentrated hydrochloric acid cooled at 0° C. After the reaction solution was stirred for 10 minutes, 462 mg of sodium nitrite dissolved in 2.0 ml of water was dropped into the reaction solution and the mixture was stirred for 2 hours together with raising the temperature up to room temperature. Water was added to the reaction solution, the mixture was extracted with ethyl acetate and the ethyl acetate layer washed with a saturated aqueous saline solution and dried over sodium sulfate. The solvent was evaporated in vacuo to give 506 mg of the title compound as a red oily crude product.

reactant | 2-Chlorophenylhydrazine hydrochloride | 1.0 g | Cl.ClC1=C(C=CC=C1)NN
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium nitrite | 462 mg | N(=O)[O-].[Na+]
solvent | diethyl ether | 6.0 ml | C(C)OCC | C4H10O
solvent | water | 2.0 ml | O | H2O
product | 1-azido-2-chlorobenzene | 506 mg | N(=[N+]=[N-])C1=C(C=CC=C1)Cl | C6H4ClN3
